Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Tachycardia 
 
Major Surgical or Invasive Procedure:
___: cardioversion & atrial flutter ablation 

 
History of Present Illness:
___ male with a known history of paraoxysmal atrial
fibrillation, on diltiazem and Coumadin, who presents to ___
with rapid heart rate. 

Mr ___ is known to the EP service and is followed by Dr.
___. He was originally diagnosed with atrial flutter after a 
routine
physical, and after referral to the ED, he was cardioverted in
___. He followed up in ___ clinic and was offered ablation, 
but
he was lost to follow up.

Patient reports he was in his usual state of health until a
couple of weeks ago, he checks his heart rate/rhythm routinely 
at
home and noticed it looked like he was in A. fib, though his 
rate
was in the ___ then. At one point last week he had a rate in the
150s, but this resolved on its own. Upon waking today he checked
his heart rate and it was in the 150s, which persisted. Of note,
he admits to drinking a number of alcoholic beverages the night
previously for St. Patricks day.

In the emergency department, he received 2X IV diltiazem
followed by PO dosing bringing his rates to 100s-110s. EP was
consulted for further workup. 

Upon admission to the floor, he continues in aflutter with rates
100s-120s. Patient remains asymptomatic with stable blood
pressures. He reports taking all of his usual medications and 
has
not missed any medication doses including his coumadin which he
routinely takes in the morning. 

 
Past Medical History:
1. Atrial flutter s/p DCCV ___
2. Mild aortic stenosis.
3. Recurrent venous thromboemboli with lupus anticoagulant, on
lifelong Coumadin.
4. Peripheral arterial disease.
5. Tobacco use disorder.
6. Mixed dyslipidemia ___ -- TC 223, ___ 72, HDL 71, LDL 138). 

 
Social History:
___
Family History:
 There is no family history of premature coronary
artery disease,cardiomyopathy, or sudden cardiac death.  His
brother has atrial fibrillation.  Father had a pacemaker. 
 
Physical Exam:
Admission Physical Examination:
General: Awake, pleasant man lying in bed appears to be in no
acute distress
Neuro: Alert and oriented x3. Pleasant and cooperative. Speech
clear, appropriate and comprehensible. Smile symmetric. Equal 
and
strong hand grasps and foot pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1 S2,no systolic/diastolic murmur
Lungs: LS clear all fields,breathing non-labored. No use of
accessory muscles noted.
Abdomen: soft, non-tender 
PV: No edema, warm well perfused. 

Admission weight: 90.4 kg   (199.29 lb) 

EKG: Atrial flutter with varied AV block, ventricular rate 106
Bpm   

Discharge Physical Examination: 
VS: Temp: 98.2, BP: 103/64 (103-128/64-82), HR: 71 (63-78), RR:
16 (___), O2 sat: 94% (94-98) RA 
Wt: 194.89 lb/88.4 kg  
General: Alert, no acute distress 
Cardiovascular: Regular rate/rhythm  
Respiratory: Lungs clear bilaterally, breathing non-labored
Abdomen: Soft, Non-tender, +BS 
Extremities: BLE warm, no ___ edema 
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate 
Access site: Right groin access site soft, non-tender with no
evidence of bleeding or hematoma 

Telemetry: SR ___ 
EKG: SR 70 

 
Pertinent Results:
EP Report s/p Aflutter ablation ___: 
Unable to induce atrial flutter or any other arrhythmias with 
burst or up to triples from CS. CTI ablation in SR. Final TIT 
180 ms lat to med and 200 ms med to lat. Mapping showed block. 
No complications.
Conclusion
• Successful cavotricuspid isthmus ablation for typical atrial 
flutter
• No inducible atrial arrhythmias at the beginning of the case
• No complications

PA/LAT CXR ___: 
Mild to moderate cardiomegaly is again seen. No consolidation is 
seen concerning for pneumonia. No large effusion, pneumothorax 
or signs of edema. Mediastinal contour is stable. Bony 
structures are intact. No free air below the right 
hemidiaphragm. 
IMPRESSION: Stable cardiac enlargement, no signs of pneumonia or 
edema. 

LABS
___ 12:35PM WBC-10.8* RBC-4.68 Hgb-14.5 Hct-45.6 MCV-97 
MCH-31.0 MCHC-31.8* RDW-13.3 RDWSD-47.8* Plt ___
___ 12:35PM Neuts-68.7 ___ Monos-5.1 Eos-2.8 
Baso-0.4 Im ___ AbsNeut-7.44* AbsLymp-2.45 AbsMono-0.55 
AbsEos-0.30 AbsBaso-0.04
___ 03:38AM WBC-7.5 RBC-4.08* Hgb-12.8* Hct-39.1* MCV-96 
MCH-31.4 MCHC-32.7 RDW-13.5 RDWSD-47.3* Plt ___

___ 12:35PM ___ PTT-62.7* ___
___ 03:38AM ___ PTT-54.1* ___

___ 12:35PM Glucose-90 UreaN-12 Creat-1.1 Na-142 K-4.6 
Cl-107 HCO3-22 AnGap-13
___ 03:38AM Glucose-91 UreaN-12 Creat-0.9 Na-150* K-4.7 
Cl-117* HCO3-23 AnGap-10 Mg-2.0

___ 07:17AM  %HbA1c-5.4 
___ 07:17AM Lipid Panel- PND 

Vascular Studies official results PND on discharge, reviewed by 
Dr. ___ and ___ significant abnormalities were seen. 
 
Brief Hospital Course:
___ admitted with rapid heart rates found to be in atrial 
flutter, now s/p successful cardioversion and aflutter ablation. 
 

 # Atrial Flutter: s/p successful DCCV & ablation ___ 
 - Continue Diltiazem ER 120mg daily 
 - Continue Coumadin with weekly INR checks for at least one 
month post ablation 
 - Outpatient f/u with Dr. ___ 

 # Recurrent DVT/PE with Lupus Anticoagulant: INR followed by 
___ clinic, called and provided the 
nurse there with an update on ___ and they will continue to 
follow. 
 - Patient is aware that he needs INR checks weekly for at least 
a month post ablation  

 # Peripheral Vascular Disease: Vascular consulted, ABIs 
completed with official results pending on discharge, reviewed 
by Dr. ___ as noted with no significant abnormalities seen. 
 Lipid panel pending on d/c, consider increase in Atorvastatin 
pending results, Vascular recommending increase to 80mg if LDL 
>70.
- Continue to encourage smoking cessation
- Advised patient to monitor feet for trauma/ulcerations 
- Would not recommend starting ASA given bleeding risk on 
Warfarin

 # Hyperlipidemia: Lipids ___ pending on discharge 
 - Increase Atorvastatin pending Lipid results as above per 
vascular team 

 # Tobacco use: Admits to smoking less than a pack/day for ___
years. He is interested in quitting after this hospitalization.
Offered nicotine patch but declined at this time. 

 # Dispo: D/C home  
 Outpatient follow up with PCP and ___ in place. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QAM 
2. Warfarin 5 mg PO QAM 
3. Diltiazem Extended-Release 120 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QAM  
2.  Diltiazem Extended-Release 120 mg PO DAILY  
3.  Warfarin 5 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Flutter s/p ablation ___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

 It was a pleasure taking care of you at the ___ 
___. 

 WHY WAS I IN THE HOSPITAL? 
 ========================== 
  You were admitted for treatment of your abnormal heart rhythm, 
(atrial flutter).

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
  You were given medication to help control your heart rate and 
you underwent cardioversion and an ablation procedure to help 
restore a normal heart rhythm.
  There was concern that the pulses in your feet felt weaker 
than they should be, which could mean inadequate blood flow to 
your extremities. You had vascular ultrasound to further 
evaluate this and there were no significant abnormalities based 
on Dr. ___, and he recommends follow up with your 
primary doctor.  

 WHAT SHOULD I DO WHEN I GO HOME? 
 ================================ 
 - Continue your medications as prescribed.  
 - Continue to follow up with your ___ clinic at ___ 
___. You should have your INR checked at least 
weekly for at least one month following your ablation procedure 
to be sure your INR does not drop too low which would put you at 
high risk for stroke in this time frame. Your INR on ___ was 
3.3.  
 - Please follow up with Dr. ___ your ___ Care Provider 
as listed below  

 It was a pleasure participating in your care. 

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 

 -Your ___ Care Team  

 
Followup Instructions:
___